data/oMe_Silver.jsonl
{"reaction_id": "NR-112_1-c2ccccc2_2-O_3-c2ccccc2_4-Br_5-c2ccc(F)cc2","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(c2ccccc2)c(O)c(c2ccccc2)c1Br","C(c2ccc(F)cc2)#N"],"products_smiles": ["c1(C(=O)c2ccc(F)cc2)c(O)c(c2ccccc2)c(O)c(c2ccccc2)c1Br"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])c2ccc(F)cc2)C(=[OH+])c(c2ccccc2)c(O)c(c2ccccc2)c1Br","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])c2ccc(F)cc2)c(O)c(c2ccccc2)c(O)c(c2ccccc2)c1Br","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])c2ccc(F)cc2)c(O)c(c2ccccc2)c(O)c(c2ccccc2)c1Br","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)c2ccc(F)cc2)c(O)c(c2ccccc2)c(O)c(c2ccccc2)c1Br","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
{"reaction_id": "NR-009_1-C(F)(F)F_2-OCCC_3-c2ccncc2","name": "Baker-Venkataraman rearrangement","level": "medium","reactants_smiles": ["C(C(F)(F)F)(OCCC)C(=O)c1ccccc1OC(=O)c2ccncc2"],"products_smiles": ["c2ccncc2C(=O)C(C(F)(F)F)(OCCC)C(=O)c1ccccc1O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(F)(F)F)(OCCC)C(=O)c1ccccc1OC(=O)c2ccncc2","rationale": "The base abstracts the acidic α-proton next to the ketone, as the resulting enolate is resonance-stabilized by the adjacent carbonyl and aromatic ring."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c12c(cccc1)OC([O-])(c2ccncc2)C(C(F)(F)F)(OCCC)C2=O","rationale": "The nucleophilic enolate oxygen attacks the electrophilic ester carbonyl, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c2ccncc2C(=O)C(C(F)(F)F)(OCCC)C(=O)c1ccccc1[O-]","rationale": "The alkoxide intermediate expels the phenoxide leaving group, driven by the stability of phenoxide and formation of a conjugated 1,3-diketone system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c2ccncc2C(=O)C(C(F)(F)F)(OCCC)C(=O)c1ccccc1O","rationale": "The phenoxide anion is protonated under the reaction conditions to yield the neutral phenol product, favored by the phenol's resonance stabilization."}],"description": "Under basic conditions, the α-proton adjacent to the ketone is deprotonated to form an enolate, which attacks the ester carbonyl intramolecularly. This rearranges via acyl transfer to yield the 1,3-diketone phenol product after elimination and protonation."}
